US04000174
To a mixture of 2.4 g. of clean sodium hydride in 200 ml. of dry tetrahydrofuran containing 20 ml. of dry HMPT (hexamethylphosphorictriamide) is added dropwise a solution of 20.4 g. of 1,1-dimethoxy-5-hydroxy-2,6-dimethylheptane in dry tetrahydrofuran. The mixture is stirred at room temperature until evolution of hydrogen ceases and then 16 g. of methyl iodide is added. The reaction mixture is refluxed for 3 hours and then cooled, diluted with water and extracted with ether. The etheral extracts are evaporated under reduced pressure to yield crude 1,1,5-trimethoxy-2,6-dimethylheptane which can be purified by distillation or chromatography on Florisil.

reactant | sodium hydride | [H-].[Na+]
reactant | 1,1-dimethoxy-5-hydroxy-2,6-dimethylheptane | COC(C(CCC(C(C)C)O)C)OC | C11H24O3
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | HMPT | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 1,1,5-trimethoxy-2,6-dimethylheptane | COC(C(CCC(C(C)C)OC)C)OC | C12H26O3
